* C:\Users\vaigo\OneDrive\Documents\LTspice\buck_converter.asc
* Generated by LTspice 26.0.1 for Windows.
Vin vin 0 12
M§switch vin N002 N001 N001 AO6408
Capacitor vout 0 200µ Rser=1m
Resistor vout 0 1
V§pulse N002 N001 PULSE(0 12 0 1n 1n {D*Ts} {Ts})
Diode 0 N001 MBR745
L§inductor N001 vout 150µ Rser=20m
.model D D
.lib C:\Users\vaigo\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\vaigo\AppData\Local\LTspice\lib\cmp\standard.mos
.param D=0.5
.param Ts = 40u
* .tran 5m
.backanno
.end
